US04180583
4-[4-(Diphenylmethylene)piperidino]-4'-methoxybutyrophenone hydrochloride
By the procedure of Example 3 only substituting for 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride an appropriate amount of 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxybutyrophenone hydrochloride, the desired product was obtained upon recrystallization from methanol-benzene, M.P. 185.5°-187° C.

reactant | 4'-fluoro-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O
reactant | 4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]-4'-methoxybutyrophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)OC
product | 4-[4-(Diphenylmethylene)piperidino]-4'-methoxybutyrophenone hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | InChI=1S/C29H31NO2.ClH/c1-32-27-16-14-23(15-17-27)28(31)13-8-20-30-21-18-26(19-22-30)29(24-9-4-2-5-10-24)25-11-6-3-7-12-25;/h2-7,9-12,14-17H,8,13,18-22H2,1H3;1H
